US05728907
This compound may be prepared in the following manner. 0.1 mole of tri-n-decylcarbinol is added to 0.2 liters of methylene chloride. The mixture is covered with a blanket of nitrogen and cooled to 0° C. 0.050 mole titanium tetrachloride is added to the mixture and the solution is stirred 2-3 hours at 0° C. 0.066 mole tri-n-decylaluminum is added and the mixture is allowed to warm to room temperature. The reaction is quenched with water and is washed with 0.1 liter of a 20% HCl solution. The organic layer is dried with magnesium sulfate and the methylene chloride is removed to give tetra-n-decylmethane.

reactant | tri-n-decylcarbinol | 0.1 mole | C(CCCCCCCCC)C(O)(CCCCCCCCCC)CCCCCCCCCC | C31H64O
reactant | tri-n-decylaluminum | 0.066 mole | C(CCCCCCCCC)[Al](CCCCCCCCCC)CCCCCCCCCC
catalyst | titanium tetrachloride | 0.050 mole | [Ti](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 0.2 liters | C(Cl)Cl | CH2Cl2
product | tetra-n-decylmethane | C(CCCCCCCCC)C(CCCCCCCCCC)(CCCCCCCCCC)CCCCCCCCCC | C41H84
